US06713499B2
To a stirred solution of 279 mg (1.00 mmol) [2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenyl]-thiourea in 8 ml chloroform at room temperature was added dropwise 0.051 ml (1.00 mmol) bromine and the mixture heated at reflux for 24 h. The mixture was then concentrated in vacuo and the residue suspended in water. Sodium bicarbonate solution was added until the pH was 10, and the crystals were collected by filtration. Flash chromatography (5/95 methanol/dichloromethane) afforded 91.5 mg (33%) 4-methoxy-7-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-benzothiazol-2-ylamine as an off-white crystalline solid. ES-MS m/e (%): 278 (M+H+, 100).

reactant | [2-methoxy-5-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-phenyl]-thiourea | 1.00 mmol, 279 mg | COC1=C(C=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)NC(=S)N | C13H17N3O2S
reactant | bromine | 1.00 mmol, 0.051 ml | BrBr | Br2
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-7-{(1S,4S)-(2-oxa-5-aza-bicyclo[2.2.1]hept-5-yl)}-benzothiazol-2-ylamine | 91.5 mg, 33% | COC1=CC=C(C2=C1N=C(S2)N)N2[C@@H]1CO[C@H](C2)C1 | C13H15N3O2S
